US05929067
(c) 4-[N-Methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(1-methyl-indol-3-yl)-pentanoic acid ethyl ester
A solution of 16.82 g of 4-[N-methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(1-methyl-indol-3-yl)-pent-2-enoic acid ethyl ester in 170 ml of tetrahydrofuran is hydrogenated for 70 minutes at 20° C. in the presence of 1.7 g of palladium/activated carbon (10%) and 0.2 g of 1,2-dichlorobenzene. The reaction mixture is then filtered and concentrated by evaporation. In this way the title compound is obtained in the form of a brownish-green resin. Rf value=0.265 (ethyl acetate/hexane 2/3).

reactant | 4-[N-methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(1-methyl-indol-3-yl)-pent-2-enoic acid ethyl ester | 16.82 g | C(C)OC(C=CC(CC1=CN(C2=CC=CC=C12)C)N(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)=O | C26H24F6N2O3
reactant | 1,2-dichlorobenzene | 0.2 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
catalyst | palladium | 1.7 g | [Pd] | Pd
product | 4-[N-Methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(1-methyl-indol-3-yl)-pentanoic acid ethyl ester | C(C)OC(CCC(CC1=CN(C2=CC=CC=C12)C)N(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)=O | C26H26F6N2O3
